US04528382
Methyl 1-Methyl-5-(4-methylbenzoyl)-1H-pyrrole-2-acetate (McN-2775)
N-Methyl 4-methylbenzimidoyl chloride (3.85 g, 23 mmole) was treated with alcohol free chloroform (4.5 ml) and chlorosulfonic acid (0.2 g, 1.7 mmole). Methyl 1-methyl-1H-pyrrole-2-acetate (3.5 g, 23 mmole) was added in one portion, the reaction was fitted with a calcium chloride drying tube and stirred overnight. The reaction was quenched with saturated aqueous sodium bicarbonate. The phases were separated and the organic phase was concentrated under reduced pressure. The residue (6.6 g of a red oil) was dissolved in methanol (50 ml) and treated with sodium acetate (3 g, 36 mmole) and water (10 ml). The reaction was heated at reflux overnight, then cooled in an ice bath. The title compound crystallized and was isolated by filtration, washed with cold methanol, and air dried to yield 2.3 g (37%) of a light tan solid, m.p. 117°-119° C.

reactant | N-Methyl 4-methylbenzimidoyl chloride | 23 mmole, 3.85 g | CN=C(C1=CC=C(C=C1)C)Cl | C9H10ClN
reactant | chlorosulfonic acid | 1.7 mmole, 0.2 g | ClS(=O)(=O)O | ClHO3S
reactant | Methyl 1-methyl-1H-pyrrole-2-acetate | 23 mmole, 3.5 g | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
reactant | sodium acetate | 36 mmole, 3 g | C(C)(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
product | Methyl 1-Methyl-5-(4-methylbenzoyl)-1H-pyrrole-2-acetate | 2.3 g, 37% | CN1C(=CC=C1C(C1=CC=C(C=C1)C)=O)CC(=O)OC | C16H17NO3
